US08455488B2
Synthesis of (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(quinolin-8-ylmethyl)-N4-tritylsuccinamide (Compound IV-20)
9H-Fluoren-9-yl)methyl (S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylcarbamate (Compound III-20) 23.4 g (27 mmol) and piperidine 22.7 g (270 mmol) were added in DCM (90 ml). The mixture was stirred for 1.5 h at room temperature. The mixture was diluted with DCM (200 ml) and washed with water (150 ml×3). The solution was concentrated in vacuo. The residue was purified by column chromatography on silica gel with PE:EA=50:1 to DCM:MeOH=10:1 to give the title compound 15.3 g, (yield 88%).

reactant | methyl (S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1,4-dioxo-4-(tritylamino)butan-2-ylcarbamate | 27 mmol, 23.4 g | C(C)OC([C@H](C)N(C([C@H](CC(NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)NC(OC)=O)=O)CC=1C=CC=C2C=CC=NC12)OCC | C42H46N4O6
reactant | piperidine | 270 mmol, 22.7 g | N1CCCCC1 | C5H11N
reactant | EA | CC(OCC)=O | C4H8O2
reactant | MeOH | CO | CH4O
solvent | DCM | 90 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-N1—((S)-1,1-diethoxypropan-2-yl)-N1-(quinolin-8-ylmethyl)-N4-tritylsuccinamide | 15.3 g, yield 88% | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC(=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C40H44N4O4
